US08378104B2
Step A: 2-amino-7-bromo-6-fluorobenzothiazole
To a mixture of 2-amino-6-fluorobenzothiazole (245 mg, 1.46 mmol) and sodium acetate (244 mg, 2.97 mmol) in acetic acid (1.60 mL) was added bromine (1.0 M in AcOH, 1.60 mL, 1.60 mmol) at RT. The mixture was stirred at RT for 1 h. The mixture was then treated with aqueous Na2CO3 until pH=7 and extracted with EtOAc (3×30 mL). The combined organic fractions were washed with water (2×20 mL) and brine (30 mL), dried over MgSO4, filtered, and concentrated. Purification by ISCO chromatography (0 to 30% EtOAc:heptane) afforded 357 mg of the impure title compound as a dark brown solid (357 mg). MS (ESI): 246.92, 248.93 [M+H]+; HPLC tR=1.25 min (TOF: polar—3 min).

reactant | 2-amino-6-fluorobenzothiazole | 1.46 mmol, 245 mg | NC=1SC2=C(N1)C=CC(=C2)F | C7H5FN2S
reactant | sodium acetate | 2.97 mmol, 244 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 1.60 mmol, 1.0 M, 1.60 mL | BrBr | Br2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 1.60 mL | C(C)(=O)O | C2H4O2
product | 2-amino-7-bromo-6-fluorobenzothiazole | 357 mg | NC=1SC2=C(N1)C=CC(=C2Br)F | C7H4BrFN2S
